US05252594
2-(4-Chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoylazide
To a stirred solution of 1.0 g (3.25 mmols) of 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoic acid in 3 mL of dimethylformamide was added 0.30 mL of tert-butanol. This solution was cooled to 0° C. and a solution of 1.07 g (3.90 mmols) of diphenylphosphorylazide in 1 mL of dimethylformamide was added followed by 0.72 mL (7.15 mmols) of triethylamine. The resultant mixture was stirred for 2 hours and then allowed to warm to room temperature and stirred for an additional 15 hours. Addition of ice caused the precipitation of the product. Filtration gave 1.10 g of a crude product which was carefully recrystallized from a 1 to 3 mixture of ethyl acetate and hexane to afford 0.46 g (47%) of azide as a white crystalline solid, melting point 100°-101° C.: 1H-NMR (CDCl3, Me4Si) 0.7-1.1 (t, J=6 Hz, CH2 --CH3), 1.1-1.7 (m), 1.75-2.1 (m), 4.6 (d, CH2 --N), 6.8-7.2(m,phenyl H), 7.3 (s,CH=N), 7.7 ppm (s,CH=N):

reactant | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoic acid | 3.25 mmols, 1.0 g | ClC1=CC=C(C=C1)C(C(=O)O)(CCCC)CN1N=CN=C1 | C15H18ClN3O2
reactant | tert-butanol | 0.30 mL | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphorylazide | 3.90 mmols, 1.07 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 7.15 mmols, 0.72 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoylazide | 0.46 g, 47% | ClC1=CC=C(C=C1)C(C(=O)N=[N+]=[N-])(CCCC)CN1N=CN=C1 | C15H17ClN6O
